US06555634B1
2,3-Dihydro-5,6-dimethoxy-3-phenyl-1H-inden-1-one (8.010 g, 29.85 mmol) and NaBH4 (1.355 g, 35.82 mmol) were stirred in diethylether (100 mL) at 0° C. as ethanol (100 mL) was added slowly. The mixture was allowed to stir at room temperature for 24 hours. The mixture was then poured onto crushed ice and then washed with diethylether (3×100 mL). The organic fractions were then dried over MgSO4, filtered, and the volatile components were removed under vacuum resulting in the isolation of a yellow solid. This solid was refluxed in anhydrous DMSO (150 mL) for 5 hours and then cooled to room temperature. The mixture was poured onto crushed ice and the total volume was diluted to 500 mL using H2O. This mixture was then washed using diethylether (5×100 mL). The organic fractions were then combined, washed with H2O (1×100 mL) and then dried over MgSO4. The mixture was filtered and the volatile components were removed resulting in the isolation of a dark red oil. Chromatography of the oil on silica gel using hexane/CH2Cl2 (1/1 vol) as the diluent resulted in the isolation of the 5,6-dimethoxy-3-phenyl-1H-indene as a yellow microcrystalline solid (4.91 g, 65.2 percent yield).

reactant | 2,3-Dihydro-5,6-dimethoxy-3-phenyl-1H-inden-1-one | 29.85 mmol, 8.010 g | COC=1C=C2C(CC(C2=CC1OC)=O)C1=CC=CC=C1 | C17H16O3
reactant | NaBH4 | 35.82 mmol, 1.355 g | [BH4-].[Na+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | H2O | O | H2O
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | hexane CH2Cl2 | CCCCCC.C(Cl)Cl
product | 5,6-dimethoxy-3-phenyl-1H-indene | COC=1C=C2C(=CCC2=CC1OC)C1=CC=CC=C1 | C17H16O2
